US07745462B2
Triethylamine (1.50 ml, 10.79 mmol) is added to a cooled (0° C.) solution of 6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid hydrochloride (1.00 g, 5.02 mmol) in acetone (8 ml) and water (1.6 ml), followed by dropwise addition of ethyl chloroformate (0.721 ml, 7.54 mmol) over S minutes. The reaction is stirred at 0° C. for 50 minutes, then a solution of sodium azide (0.521 g, 8.04 mmol) in water (3 ml) is added. After 1.5 hours, the reaction is poured into brine and extracted with ether. The combined ether extracts are dried (Na2SO4) and evaporated. The residue is taken into toluene (40 ml) and gradually heated to 100° C. until gas evolution ceases. The solvent is evaporated, the residue taken into 6N hydrochloric acid and heated to reflux for 16 hours. After evaporation, the crude hydrochloride salt is taken into MeOH and polymer supported trisamine (10 g) is added, followed by decolourising charcoal. The suspension is filtered through a Celite™ filter pad and the filtrate evaporated. The resultant material is purified by flash column chromatography (20:1 CH2Cl2-MeOH containing 1% triethylamine elution) to afford 6,7-dihydro-5H-[1]pyrindin-6-ylamine. δH 2.65 (1H dd J 15.9 5.1), 2.74 (1H dd J 16.6 5.1), 3.15 (1H dd J 16.1 7.0), 3.23 (1H dd J 16.6 7.0), 3.83 (1H m), 6.97 (1H dd J 6.9 4.8), 7.42 (1H d J 6.9), 8.28 (1H d J 4.8).

reactant | Triethylamine | 10.79 mmol, 1.50 ml | C(C)N(CC)CC | C6H15N
reactant | 6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid hydrochloride | 5.02 mmol, 1.00 g | Cl.N1=CC=CC=2CC(CC12)C(=O)O
reactant | ethyl chloroformate | 7.54 mmol, 0.721 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 8.04 mmol, 0.521 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | water | 1.6 ml | O | H2O
solvent | water | 3 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 6,7-dihydro-5H-[1]pyrindin-6-ylamine | N1=CC=CC=2CC(CC12)N | C8H10N2
